US07094908B2
Methyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.54 g, 73%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.40 g, 2.11 mmol) and 4-chlorophthalic anhydride (0.50 g, 2.74 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 2.11 mmol, 0.40 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | 4-chlorophthalic anhydride | 2.74 mmol, 0.50 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
product | Methyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | ClC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C16H16ClNO6
